US08017611B2
A solution of tert-butyl (2R,4R) 4-(tert-butyl-dimethyl-silyl)oxy-2-(hydroxymethyl)pyrrolidine-1-carboxylate (9.32 g) in DMF (15 ml) was added to a stirred suspension of sodium hydride (60% dispersion) (1.37 g) in DMF 100 ml) at −10° C. Iodomethane (2.13 ml) was added and the reaction allowed to warm to 20° C. The reaction mixture was quenched carefully with water and evaporated to dryness. The crude material was partitioned between ethyl acetate (250 ml) and water (100 ml). The organic layer was washed with brine (100 ml), dried over Magnesium sulphate, filtered and evaporated to give tert-butyl (2R,4R) 4-(tert-butyl-dimethyl-silyl)oxy-2-(methoxymethyl)pyrrolidine-1-carboxylate (6.68 g) as a colourless oil. NMR Spectrum: (DMSOd6) 0.02 (6H, s); 0.83-0.84 (9H, s); 1.36 (9H, s); 1.78 (1H, d); 1.99 (1H, s); 2.99 (1H, d); 3.19 (3H, d); 3.23-3.48 (3H, m); 3.80 (1H, s); 4.33 (1H, s).

reactant | tert-butyl (2R,4R) 4-(tert-butyl-dimethyl-silyl)oxy-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 9.32 g | C(C)(C)(C)[Si](O[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)CO)(C)C | C16H33NO4Si
reactant | sodium hydride | 1.37 g | [H-].[Na+]
reactant | Iodomethane | 2.13 ml | IC | CH3I
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | tert-butyl (2R,4R) 4-(tert-butyl-dimethyl-silyl)oxy-2-(methoxymethyl)pyrrolidine-1-carboxylate | 6.68 g | C(C)(C)(C)[Si](O[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)COC)(C)C | C17H35NO4Si
